US06936612B2
(8-Cyclopentyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-ylmethyl)-carbamic acid benzyl ester (1.67 g, 3.93 mmol) and 2-benzenesulfonyl-3-phenyl-oxaziridine (1.34 g, 5.11 mmol) were dissolved in dichloromethane (20 mL) and stirred at ambient temperature for 12 hours. The reaction mixture was then purified by silica gel chromatography to give (8-cyclopentyl-2-methanesulfinyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-ylmethyl)-carbamic acid benzyl ester as a white solid (0.98 g, 56.6%). 1H NMR δ (400 MHz, CDCl3) 8.89 (s, 1H), 7.68 (s, 1H), 7.32 (m, 5H), 5.96 (m, 1H), 5.52 (t, J=6.4 Hz, 1H), 5.09 (s, 2H), 4.32 (d, J=6.3 Hz, 2H), 2.95 (s, 3H), 2.22 (m, 2H), 2.12 (m, 2H), 1.95 (m, 2H), 1.69 (m, 2H).

reactant | (8-Cyclopentyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-ylmethyl)-carbamic acid benzyl ester | 3.93 mmol, 1.67 g | C(C1=CC=CC=C1)OC(NCC1=CC2=C(N=C(N=C2)SC)N(C1=O)C1CCCC1)=O | C22H24N4O3S
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | 5.11 mmol, 1.34 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (8-cyclopentyl-2-methanesulfinyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-ylmethyl)-carbamic acid benzyl ester | 0.98 g, 56.6% | C(C1=CC=CC=C1)OC(NCC1=CC2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1)=O | C22H24N4O4S
